US05151431
Starting from 3-(4-chloro-2-nitrophenylamino)propionic acid (40.0 g), phosphorus pentoxide (70.0 g) and toluene (300 ml), 6-chloro-2,3-dihydro-8-nitro-4(1H)-quinolinone (yield 25.0 g) was obtained in a manner similar to Step 1 of Example 1.

reactant | 3-(4-chloro-2-nitrophenylamino)propionic acid | 40.0 g | ClC1=CC(=C(C=C1)NCCC(=O)O)[N+](=O)[O-] | C9H9ClN2O4
reactant | phosphorus pentoxide | 70.0 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-2,3-dihydro-8-nitro-4(1H)-quinolinone | yield 25.0 g | ClC=1C=C2C(CCNC2=C(C1)[N+](=O)[O-])=O | C9H7ClN2O3
